US06800778B1
(1) Production of ethyl 1-[(2,4-dichlorophenyl)(hydroxy)methyl]cyclopentanecarboxylate
(S)-tBuBisP*-RuBr2 (16 mg) was placed in a reactor and deaerated. After substitution with argon, a mixture of ethyl 1-(2,4-dichlorobenzoyl)cyclopentanecarboxylate (2.8 g, 5.6 mmol) and methanol-water (101) (30 ml) was added. Under 70° C. and hydrogen pressure (6 kg/cm2), the mixture was stirred for 30 h and concentrated. This was diluted with ethyl acetate (50 ml), washed with water and concentrated to dryness. This was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (0.91 g, 41.3%) as a colorless oil. The enantiomer excess of this product was measured by high performance liquid chromatography (Condition F) and found to be 92%.

reactant | ethyl 1-(2,4-dichlorobenzoyl)cyclopentanecarboxylate | 5.6 mmol, 2.8 g | ClC1=C(C(=O)C2(CCCC2)C(=O)OCC)C=CC(=C1)Cl | C15H16Cl2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol water | 30 ml | CO.O
product | ethyl 1-[(2,4-dichlorophenyl)(hydroxy)methyl]cyclopentanecarboxylate | 0.91 g, 41.3% | ClC1=C(C=CC(=C1)Cl)C(C1(CCCC1)C(=O)OCC)O | C15H18Cl2O3
